US04829067
A mixture of 1.90 g of methyl 3-formyl-2-hydroxybenzoate, 3.0 g of nitroethane, 0.15 ml of piperidine and 30 ml of toluene is refluxed overnight while removing water. The reaction mixture is poured into ice-water and the aqueous mixture is extracted with ethyl acetate. The extract is washed successively with 10% hydrochloric acid and an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is recrystallized from methanol to give 2.05 g of methyl 2-hydroxy-3-(2-nitro-1-propenyl)benzoate.

reactant | methyl 3-formyl-2-hydroxybenzoate | 1.90 g | C(=O)C=1C(=C(C(=O)OC)C=CC1)O | C9H8O4
reactant | nitroethane | 3.0 g | [N+](=O)([O-])CC | C2H5NO2
reactant | piperidine | 0.15 ml | N1CCCCC1 | C5H11N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-hydroxy-3-(2-nitro-1-propenyl)benzoate | 2.05 g | OC1=C(C(=O)OC)C=CC=C1C=C(C)[N+](=O)[O-] | C11H11NO5
